US08669249B2
6-(Ethylsulfonyl)-2-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one (23)
Using 4-(ethylsulfonyl)-2-nitrophenol and methyl 2-bromopropanoate in the general procedure for alkylation of substituted-2-nitrophenols followed by reaction of the product in the general procedure for reduction of nitro group and subsequent ring closure gives a white solid: 1H NMR (DMSO-d6, 400 MHz): δ=10.96 (s, 1H), 7.43 (dd, J=8.3, 2.0 Hz, 1H), 7.37 (d, J=2.3 Hz, 1H), 7.19 (d, J=8.3 Hz, 1H), 4.85 (q, J=6.8 Hz, 1H), 3.23 (q, J=7.3 Hz, 2H), 1.46 (d, J=6.8 Hz, 3H), 1.10 ppm (t, J=7.5 Hz, 3H). ESI-MS: m/z 256.1 (M+H)+.

reactant | 4-(ethylsulfonyl)-2-nitrophenol | C(C)S(=O)(=O)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H9NO5S
reactant | methyl 2-bromopropanoate | BrC(C(=O)OC)C | C4H7BrO2
product | 6-(Ethylsulfonyl)-2-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one | C(C)S(=O)(=O)C1=CC2=C(OC(C(N2)=O)C)C=C1 | C11H13NO4S
